US06420375B1
Preparation of 4-(1H-imidazol-1-yl)-1-(2-naphthyl)-1-butanol
To a solution of 4-(1H-imidazol-1-yl)-1-(2-naphthyl)-1-butanone (0.793 g) in MeOH (5 ml) was added NaBH4 (0.213 g) and the mixture was stirred at room temperature for 2 hours. Water was added and the whole was concentrated. The residue was extracted with ethyl acetate. The extract was washed with water and brine, dried and concentrated. The residue was chromatographed on silica gel (ethyl acetate-MeOH=20:1) followed by crystallization to give the titled compound (0.615 g) as a colorless solid.

reactant | 4-(1H-imidazol-1-yl)-1-(2-naphthyl)-1-butanone | 0.793 g | N1(C=NC=C1)CCCC(=O)C1=CC2=CC=CC=C2C=C1 | C17H16N2O
reactant | NaBH4 | 0.213 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(1H-imidazol-1-yl)-1-(2-naphthyl)-1-butanol | 0.615 g | N1(C=NC=C1)CCCC(O)C1=CC2=CC=CC=C2C=C1 | C17H18N2O
